US06919356B2
Part C. Preparation of (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-oxo-ethyl]-piperidin-3-ylmethyl}-urea
A solution of (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethyl-ureahydrochloride (50 with 2-chloro-4′-fluoroacetophenone (27 mg, 158 μmol) and minutes. Additional triethylamine (73 μL, 526 μμmol) and 2-chloro-4′-fluoroacetophenone (ca. 5 mg) were added and stirring was continued for 60 minutes more. The mixture was concentrated under vacuum, and the residue was purified by flash chromatography, eluting with 3% methanol in dichloromethane, containing 0.3% aqueous ammonia, to provide a tan glassy solid (51 mg, 81%). 1H NMR (300 MHz, CDCl3) δ8.02 (m, 3H), 7.70 (s, 1H), 7.59 (s, 1H), 7.13 (m, 3H), 6.64 (bs, 1H), 4.20 (s, 3H), 3.85 (ab, J=18 Hz, 2H), 3.30 (m, 2H), 2.9-2.6 (m, 4H), 2.37 (m, 2H), 2.0-1.6 (m, 5H), 1.25 (t, J=8 Hz, 3H). Mass spec (ES+) m/z 480.4 (M+H+).

reactant | (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-piperidin-3-ylmethyl-ureahydrochloride | Cl.C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC[C@@H]1CNCCC1
reactant | 2-chloro-4′-fluoroacetophenone | 158 μmol, 27 mg | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | 2-chloro-4′-fluoroacetophenone | ca. 5 mg | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
solvent | triethylamine | 73 μL | C(C)N(CC)CC | C6H15N
product | (S)-1-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-3-{1-[2-(4-fluorophenyl)-2-oxo-ethyl]-piperidin-3-ylmethyl}-urea | 51 mg, 81% | C(C)C=1C=C(C=C(C1)C1=NN=NN1C)NC(=O)NC[C@H]1CN(CCC1)CC(=O)C1=CC=C(C=C1)F | C25H30FN7O2
